US07427632B2
1-Phenyl-4-(pyridin-4-yl)butan-1-one oxime
To a solution of 1-phenyl-4-(pyridin-4-yl)butan-1-one (2.0 g, 8.7 mmol) in 20 mL of EtOH was added hydroxylamine hydrochloride (0.73 g, 10 mmol) and sodium acetate (1.4 g, 17 mmol). The reaction flask was heated at 80° C. for 4 h and was then cooled to room temperature. Addition of water and filtration of the resultant precipitate afforded 2.0 g (89%) of the title compound.

reactant | 1-phenyl-4-(pyridin-4-yl)butan-1-one | 8.7 mmol, 2.0 g | C1(=CC=CC=C1)C(CCCC1=CC=NC=C1)=O | C15H15NO
reactant | hydroxylamine hydrochloride | 10 mmol, 0.73 g | Cl.NO
reactant | sodium acetate | 17 mmol, 1.4 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1-Phenyl-4-(pyridin-4-yl)butan-1-one oxime | 2.0 g, 89% | C1(=CC=CC=C1)C(CCCC1=CC=NC=C1)=NO | C15H16N2O
